US09102670B2
Procedure for the Synthesis of 5-[2,4-bis-((S)-3-methyl-morpholin-4-yl)-pyrido[2,3-d]pyrimidin-7-yl]-2-isopropoxy-benzamide (Example 1cw)
5-[2,4-Bis-((S)-3-methyl-morpholin-4-yl)-pyrido[2,3-d]pyrimidin-7-yl]-2-isopropoxy-benzonitrile (1 equiv) was added portionwise to concentrated H2SO4 (0.1 M substrate in acid). The reaction was heated to 90° C. and maintained at this temperature until all starting material had dissolved to give a bright red solution. The mixture was cooled and water (2 reaction volumes) added dropwise, then the solution was neutralized by careful addition of solid NaOH until pH 4-5 was attained. The mixture was cooled and neutralised by addition of 2N NaOH and then extracted using EtOAc (2×10 reaction volumes). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to give a crude residue which was purified by flash chromatography (SiO2) using MeOH/DCM—0:100 going to 5:95 as eluent to give the desire product as a yellow powder.

reactant | 5-[2,4-Bis-((S)-3-methyl-morpholin-4-yl)-pyrido[2,3-d]pyrimidin-7-yl]-2-isopropoxy-benzonitrile | 1 equiv | C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N=C(C=C2)C=2C=CC(=C(C#N)C2)OC(C)C)N2[C@H](COCC2)C | C27H32N6O3
reactant | H2SO4 | 0.1 M | OS(=O)(=O)O | H2O4S
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-[2,4-bis-((S)-3-methyl-morpholin-4-yl)-pyrido[2,3-d]pyrimidin-7-yl]-2-isopropoxy-benzamide | C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N=C(C=C2)C=2C=CC(=C(C(=O)N)C2)OC(C)C)N2[C@H](COCC2)C | C27H34N6O4
